US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-(3-{[methyl(methylsulfonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate
A solution of tert-butyl (3R)-6-cyclohexyl-3-{3-[(methylamino)methyl]-1,2,4-oxadiazol-5-yl}hexanoate (preparation 5) (300 mg, 0.82 mmol) in pyridine (2 ml) in a water bath was treated with methanesulphonylchloride (64 μl, 0.82 mmol) and stirred under a nitrogen atmosphere for 20 minutes. The solvent was removed under reduced pressure. The residue was dissolved in EtOAc and washed with 2M HCl followed by brine. The organic extract was dried over MgSO4, filtered and the solvent removed under reduced pressure. The residue was purified on a silica column eluting with a solvent gradient of EtOAc:pentane (5:95) gradually changing to (30:70) to afford the title compound as a colourless oil (273 mg, 75%).

reactant | tert-butyl (3R)-6-cyclohexyl-3-{3-[(methylamino)methyl]-1,2,4-oxadiazol-5-yl}hexanoate | 0.82 mmol, 300 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNC | C20H35N3O3
reactant | methanesulphonylchloride | 0.82 mmol, 64 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | tert-butyl (3R)-6-cyclohexyl-3-(3-{[methyl(methylsulfonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate | 273 mg, 75% | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CN(S(=O)(=O)C)C | C21H37N3O5S
